US07407958B2
To a stirred solution of 4-(2-(1,3-dioxolan-2-yl)ethyl)benzamide (0.50 g, 2.26 mmol) in THF (22 mL) was added 1 N HCl solution (20 mL) at room temperature. The mixture was heated at 80? 90? for 1 h and cooled to room temperature. After saturation with NaCl, the reaction mixture was extracted repeatedly with CHCl3 (5×20 mL). The combined CHCl3 solution was dried (anhydrous Na2SO4), filtered, and evaporated under reduced pressure to give 0.40 g (98%) of 4-(2-formylethyl)benzamide as a solid which was used to the next step without further purification. 1H NMR (400 MHz, CDCl3) δ 9.82 (t, 1H), 7.74 (m, 2H), 7.27 (m, 2H), 6.14 (br s, 1H), 6.03 (br s, 1 H), 3.01 (m, 2H), 2.81 (m, 2H).

reactant | 4-(2-(1,3-dioxolan-2-yl)ethyl)benzamide | 2.26 mmol, 0.50 g | O1C(OCC1)CCC1=CC=C(C(=O)N)C=C1 | C12H15NO3
reactant | HCl | 1 N, 20 mL | Cl | ClH
solvent | THF | 22 mL | C1CCOC1 | C4H8O
product | 4-(2-formylethyl)benzamide | 0.40 g, 98% | C(=O)CCC1=CC=C(C(=O)N)C=C1 | C10H11NO2
